US05112940
[Synthesis of 2-(2',3'-dihydroxypropoxy)-propionic acid]
177 g of lactic acid ethylester and 46.2 g of epichlorohydrin are admixed by stirring in the presence of 0.5 ml of borontrifluorideetherate during 4 hours at 80° C. The excess of lactic acid ethyl ester is then distilled off with vacuum (20 mm Hg). The residue is dehalogenated and saponified with diluted sodiumhydroxide.

reactant | lactic acid ethylester | 177 g | C(C)OC(C(O)C)=O | C5H10O3
reactant | epichlorohydrin | 46.2 g | C(Cl)C1CO1 | C3H5ClO
reactant | borontrifluorideetherate | 0.5 ml | B(F)(F)F.CCOCC
product | 2-(2',3'-dihydroxypropoxy)-propionic acid | OC(COC(C(=O)O)C)CO | C6H12O5
